US03969368
(2-Phenyl-1,3-benzodioxol-2-yl)acetic acid.
To a mixture of 0.61 g. of magnesium, in chips, 10 cc. of anhydrous ether and one crystal of iodine, one cc. of a solution of 7.3 g. of 2-phenyl-2-bromoethyl-1,3-benzodioxole in 25 cc. of anhydrous ether is added. When the reaction has begun, the mixture is stirred and the rest of the mixture is then added dropwise. The mixture is then refluxed for 2 hours. After cooling CO2 is bubbled into the reaction mixture for 2 hours. The mixture is then cooled with ice and hydrolysed with 25% H2SO4. The ether phase is then separated and dried with Na2SO4. After evaporation, the product obtained has the m.p. 152°-53°C. (from benzene).

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-phenyl-2-bromoethyl-1,3-benzodioxole | C1(=CC=CC=C1)C1OC2=C(O1)C=CC=C2CCBr | C15H13BrO2
reactant | CO2 | C(=O)=O | CO2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | (2-Phenyl-1,3-benzodioxol-2-yl)acetic acid | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC=C2)CC(=O)O | C15H12O4
